US06245761B1
Preparation of 4-(2-fluoro-5-chlorobenzyloxy)-N-(t-butoxycarbonyl)-N-(isopropyl)butylamine
The title intermediate was prepared essentially as described supra for 4-(2-fluorobenzyloxy)-N-(t-butoxycarbonyl)-N-(isopropyl)butylamine, except that an equimolar amount of 2-fluoro-5-chlorobenzyl bromide was employed instead of the 2-fluorobenzyl bromide employed therein.

reactant | 4-(2-fluorobenzyloxy)-N-(t-butoxycarbonyl)-N-(isopropyl)butylamine | FC1=C(COCCCCN(C(C)C)C(=O)OC(C)(C)C)C=CC=C1 | C19H30FNO3
reactant | 2-fluoro-5-chlorobenzyl bromide | FC1=C(CBr)C=C(C=C1)Cl | C7H5BrClF
product | 4-(2-fluoro-5-chlorobenzyloxy)-N-(t-butoxycarbonyl)-N-(isopropyl)butylamine | FC1=C(COCCCCN(C(C)C)C(=O)OC(C)(C)C)C=C(C=C1)Cl | C19H29ClFNO3
